US08426404B2
Synthesis of N3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-4-methyl-benzene-1,3-diamine
[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-(2-methyl-5-nitrophenyl)-amine (135 mg, 0.37 mmol) is dissolved in ethanol (30 mL). After hydrogenation catalyzed by palladium (10 wt % on activated carbon, wet, Degussa type, 22 mg) under 1 atm H2 balloon overnight, the reaction mixture is filtered through a pad of celite and washed with ethanol. The combined filtrate and washings are concentrated to afford the title compound, which is used for next reaction without any further purification.

reactant | [1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-(2-methyl-5-nitrophenyl)-amine | 0.37 mmol, 135 mg | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC2=C(C=CC(=C2)[N+](=O)[O-])C | C18H15N7O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | palladium | 22 mg | [Pd] | Pd
product | N3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-4-methyl-benzene-1,3-diamine | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC=2C=C(C=CC2C)N | C18H17N7
